US03976653
A mixture of 257 g. of diethyl 1-benzyloxycarbonyl-2-(p-methoxybenzyl)-3,3-piperidinedicarboxylate, 35 g. of 86 per cent potassium hydroxide, 530 ml. of ethyl alcohol, and 530 ml. of water was stirred and refluxed for 71/2 hours. The reaction mixture was concentrated under reduced pressure until only water distilled. More water was added to the reaction mixture, which was then extracted twice with diethyl ether. The ether extracts were combined, washed with water, dried, filtered, and the filtrate was concentrated under reduced pressure to recover 108 g. of unhydrolyzed diester starting material. The aqueous layers from the extractions were combined and acidified with concentrated hydrochloric acid, causing separation of an oil. This oil crystallized when shaken from a few ml. of diethyl ether. The mixture was filtered and the solid thus collected was washed with diethyl ether and air-dried. This product was a first crop of 1-benzyloxycarbonyl-2-(p-methoxybenzyl)-3-carbethoxy-3-piperidinecarboxylic acid. By repeating the hydrolysis procedure on the 108 g. of recovered diethyl 1-benzyloxycarbonyl-2-(p-methoxybenzyl)-3,3-piperidinedicarboxylate, using 14.6 g. of 86 per cent potassium hydroxide, 225 ml. of ethyl alcohol, and 225 ml. of water, there was obtained a second crop of 1-benzyloxycarbonyl-2-(p-methoxybenzyl)-3-carbethoxy-3-piperidinecarboxylic acid. The two crops were combined and recrystallized from ethyl alcohol to yield 157 g. of this product as a white solid. When recrystallized from ethyl alcohol, this compound melted at 186°-188°C. (dec.); ir (K.Br) 1740 (ester C=O), 1720 (acid C=O), and 1650 cm-1 (urethane C=O).

reactant | diethyl 1-benzyloxycarbonyl-2-(p-methoxybenzyl)-3,3-piperidinedicarboxylate | C(C1=CC=CC=C1)OC(=O)N1C(C(CCC1)(C(=O)OCC)C(=O)OCC)CC1=CC=C(C=C1)OC | C27H33NO7
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethyl alcohol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-benzyloxycarbonyl-2-(p-methoxybenzyl)-3-carbethoxy-3-piperidinecarboxylic acid | C(C1=CC=CC=C1)OC(=O)N1C(C(CCC1)(C(=O)O)C(=O)OCC)CC1=CC=C(C=C1)OC | C25H29NO7
